US08859534B2
5-Fluoro-N,N-dimethyl-7-(4-(2-(pyridin-2-yl)ethyl)piperazin-1-yl)benzofuran-2-carboxamide
A reaction mixture of 5-fluoro-N,N-dimethyl-7-(piperazin-1-yl)benzofuran-2-carboxamide (0.10 g, 0.35 mmol), 2-(2-bromoethyl)pyridine:HBr (0.132 g, 0.49 mmol) and triethylamine (0.12 mL, 0.88 mmol) was heated at 80° C. over night. The product was purified by preparative HPLC to give the title compound. Yield: 0.091 g (65%).

reactant | 5-fluoro-N,N-dimethyl-7-(piperazin-1-yl)benzofuran-2-carboxamide | 0.35 mmol, 0.10 g | FC=1C=C(C2=C(C=C(O2)C(=O)N(C)C)C1)N1CCNCC1 | C15H18FN3O2
reactant | 2-(2-bromoethyl)pyridine | BrCCC1=NC=CC=C1 | C7H8BrN
reactant | HBr | 0.49 mmol, 0.132 g | Br | BrH
reactant | triethylamine | 0.88 mmol, 0.12 mL | C(C)N(CC)CC | C6H15N
product | 5-Fluoro-N,N-dimethyl-7-(4-(2-(pyridin-2-yl)ethyl)piperazin-1-yl)benzofuran-2-carboxamide | FC=1C=C(C2=C(C=C(O2)C(=O)N(C)C)C1)N1CCN(CC1)CCC1=NC=CC=C1 | C22H25FN4O2
